US09238644B2
(b) 1-(2-Iodophenyl)cyclopropanecarboxamide (I11)
HOBt (1.89 g, 14.0 mmol) and EDCl.HCl (2.69 g, 14.0 mmol) were added to a solution of 1-(2-iodophenyl)cyclopropanecarboxylic acid (I10) (3.11 g, 10.8 mmol) in DMF (6 mL), THF (29 mL) and Et3N (9.4 mL, 54 mmol). After 15 minutes ammonium carbonate (7.95 g, 86.4 mmol) was added and the resulting mixture was stirred at room temperature for 20 hours. The volatiles were removed in vacuo and water (150 mL) was added to the residue resulting in the formation of a suspension. The suspension was sonicated for several minutes, filtered and the filter cake dried to give the title compound I11 as an off white solid (2.55 g, 82%); 1H NMR (300 MHz, d6-DMSO) δ 7.87 (d, J=7.6 Hz, 1H), 7.36-7.38 (m, 2H), 7.02-7.08 (m, 1H), 6.96 (brs, 1H), 6.05 (brs, 1H), 1.52 (brs, 2H), 0.96 (brs, 2H). LCMS-B: rt 5.800 min; m/z 288 [M+H]+.

reactant | HOBt | 14.0 mmol, 1.89 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 14.0 mmol, 2.69 g | Cl | ClH
reactant | 1-(2-iodophenyl)cyclopropanecarboxylic acid | 10.8 mmol, 3.11 g | IC1=C(C=CC=C1)C1(CC1)C(=O)O | C10H9IO2
reactant | Et3N | 54 mmol, 9.4 mL | CCN(CC)CC | C6H15N
reactant | ammonium carbonate | 86.4 mmol, 7.95 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | THF | 29 mL | C1CCOC1 | C4H8O
product | 1-(2-Iodophenyl)cyclopropanecarboxamide | IC1=C(C=CC=C1)C1(CC1)C(=O)N | C10H10INO
